US05710343
3-Ethoxy-4-hydroxy-5-nitrobenzaldehyde:
Fuming nitric acid (22.0 mL) was added (rate approx. 1.5 mL/min) to a stirred solution of 3-ethoxy-4-hydroxybenzaldehyde (83.0 g) in dichloromethane (400 mL) at 5°-10° C. Thereafter the mixture was stirred for 30 min at 3° C. and then filtered. The product was washed with dichloromethane and water and dried in vacuo at 50° C., yield 77.8 g (73,7%).

reactant | nitric acid | 22.0 mL | [N+](=O)(O)[O-] | HNO3
reactant | 3-ethoxy-4-hydroxybenzaldehyde | 83.0 g | C(C)OC=1C=C(C=O)C=CC1O | C9H10O3
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | 3-Ethoxy-4-hydroxy-5-nitrobenzaldehyde | C(C)OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C9H9NO5
